US08835472B2
4-Ethynyl-benzoic acid methyl ester
18.1 g (77.9 mmol) 4-trimethylsilanylethynyl-benzoic acid methyl ester are added to 400 mL MeOH, cooled down to 0° C. and charged with 3.24 g (23.4 mmol) K2CO3. The reaction mixture is stirred for 3 h, then the solvent is removed in vacuo and the resulting residue is purified by column chromatography (silica gel, hexane/TBME 10/1).

reactant | 4-trimethylsilanylethynyl-benzoic acid methyl ester | 77.9 mmol, 18.1 g | COC(C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C13H16O2Si
reactant | K2CO3 | 23.4 mmol, 3.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 400 mL | CO | CH4O
product | 4-Ethynyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
